US05026707
Preparation of 2-Homopiperazinyl-6-chloro-1,2,3,4-tetrahydronaphthalene dihydrochloride
To a solution of 6-chloro-2-tetralone (7.22 g) and homopiperazine (8.0 g) in 100 ml of toluene were added 10 g of 3A molecular sieves. The mixture was heated on the steam bath for 2 hours, the sieves were filtered off, and toluene was evaporated from the filtrate. The residue was dissolved in a mixture of 100 ml of THF and 30 ml of methanol. The resultant solution was cooled in an ice bath with stirring under nitrogen, 2.51 g of sodium cyanoborohydride were added, and, with stirring and cooling, gaseous HCl was added portionwise periodically until the solution remained acidic. After stirring overnight at room temperature, the solvents were evaporated, and the residue was partitioned between dilute hydrochloric acid and ether. The acidic aqueous layer was separated and made basic with sodium hydroxide. The oil which formed was extracted with ether. The ether solution was dried (MgSO4), and the ether was evaporated. The residue was dissolved in ethanol, and excess gaseous HCl was added to the solution The solvent was evaporated. The residue crystallized slowly from a mixture of ethanol and ether to obtain 3.22 g of the title compound. m.p. 181°-183° C.

reactant | 6-chloro-2-tetralone | 7.22 g | ClC=1C=C2CCC(CC2=CC1)=O | C10H9ClO
reactant | homopiperazine | 8.0 g | N1CCNCCC1 | C5H12N2
solvent | toluene | 100 ml | C1(=CC=CC=C1)C | C7H8
product | 2-Homopiperazinyl-6-chloro-1,2,3,4-tetrahydronaphthalene dihydrochloride | 3.22 g | Cl.Cl.N1(CCNCCC1)C1CC2=CC=C(C=C2CC1)Cl | InChI=1S/C15H21ClN2.2ClH/c16-14-4-2-13-11-15(5-3-12(13)10-14)18-8-1-6-17-7-9-18;;/h2,4,10,15,17H,1,3,5-9,11H2;2*1H
